Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
gabapentin / oxycodone
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ year old female initially presented with phlegmonous 
appendicitis in
late ___, treated with antibiotics then an interval
appendectomy on ___. Her operation was notable for some
oozing from the staple line during the case that was controlled
with an endoloop to good effect. Post-operatively, her 
hematocrit
drifted and stabilized at 27. She was discharged home on POD2.
She reports feeling well since the operation. She only took two
doses of dilaudid in the initial postop days and none since.
Yesterday evening she reports severe right lower quadrant pain.
This worsened through the day today and has not remitted. It is
worst when she moves. It feels somewhat higher than where the
prior appendicitis pain felt but still in the same area. She has
not had fevers or chills. She is nauseated but did not vomit.

 
Past Medical History:
PMH:
GERD/DYSPHAGIA/LPR                                              
ABDOMINAL PAIN                                                  
ANEMIA                                                          
DIVERTICULOSIS                                                  
IBS-C                                                           
LACTOSE INTOLERANCE                                             
LIVER LESION                                                    
RAPID GASTRIC EMPTYING                                          
LOW BACK PAIN                                                   
DEPRESSION                                                      
ANXIETY                                                         
H/O HYPERCHOLESTEROLEMIA     

PSH:
Tonsillectomy

 
Social History:
___
Family History:
non-contributory 
 
Physical Exam:
Exam upon admission: ___
99.7  96  130/85  17  100RA
NAD, AAOx3, pleasant
RRR
unlabored respirations
abdomen soft, tender to palpation to light palpation in the 
right
lower quadrant, not tap tender, incisions from appendectomy are
well healed, no signs of infection
extremities warm

Physical examination upon discharge:  ___

General:  NAD

CV:  ns1, s2, no murmurs
LUNGS:  clear
ABDOMEN:  hypoactive BS, soft, non-tender, port sites clean and 
dry
EXT: no pedal edema bil., no calf tenderness bil
NEURO:  alert and oriented x 3, speech clear

 
Pertinent Results:
___ 06:25AM BLOOD WBC-7.9 RBC-3.40* Hgb-10.2* Hct-32.3* 
MCV-95 MCH-30.0 MCHC-31.6* RDW-12.6 RDWSD-43.1 Plt ___
___ 07:02PM BLOOD WBC-11.7* RBC-3.80* Hgb-11.2 Hct-36.0 
MCV-95 MCH-29.5 MCHC-31.1* RDW-12.6 RDWSD-43.3 Plt ___
___ 07:02PM BLOOD Glucose-105* UreaN-7 Creat-0.6 Na-138 
K-3.7 Cl-101 HCO3-23 AnGap-18
___ 07:02PM BLOOD ALT-12 AST-14 AlkPhos-52 TotBili-0.7
___ 07:02PM BLOOD Lipase-28
___ 06:25AM BLOOD Calcium-9.0 Phos-4.1 Mg-2.1

___:  ct scan abd/pelvis:

. Status post appendectomy with fluid measuring 1.2 x 1.8 cm 
with suggestion of rim enhancement.  An abscess cannot be ruled 
out.  Given the size, this is unlikely to be drainable.  This is 
also located between the cecum and the small bowel in the right 
lower quadrant. 
2. Moderate amount of intermediate density fluid in the pelvis, 
could be 
proteinaceous versus hemorrhagic and likely postoperative. 
3. No evidence of bowel obstruction. 
  

 
Brief Hospital Course:
___ year old female who was admitted to the hospital with right 
lower quadrant pain.  She underwent a laparoscopic appendectomy 
on ___ and discharged home on POD #2.   She reportedly was 
doing well until ___ when she developed right lower quadrant 
pain and a mild elevation in her white blood cell count.  Upon 
admission to the hospital, the patient was made NPO, given 
intravenous fluids and underwent imaging.  A cat scan of the 
abdomen showed a small amount of fluid adjacent to the operative 
site with a small amount of stranding.  There was no abscess to 
drain.  The patient was started on a course of ciprofloxacin and 
flagyl. 

During her hospitalization, her white blood cell count was 
monitored. Her abdominal pain resolved and she resumed a regular 
diet.  Her vital signs were stable and she was afebrile.  She 
was ambulatory and voiding without difficulty.  The patient was 
discharged home on HD #2 with instructions to complete a week 
course of ciprofloxacin and flagyl.  An appointment for 
follow-up were made in the acute care clinic. Discharge 
instructions were reviewed and questions answered.    

   
 
Medications on Admission:
omeprazole 20', atorvastatin 40', remeron 30HS'  
Assessment: 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
2.  Ciprofloxacin HCl 500 mg PO Q12H 
last dose ___ 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth every twelve 
(12) hours Disp #*13 Tablet Refills:*0 
3.  Docusate Sodium 100 mg PO BID:PRN constipation  
4.  Ibuprofen 400 mg PO Q8H:PRN Pain - Mild 
please take with food  
5.  MetroNIDAZOLE 500 mg PO Q8H 
last dose ___ 
RX *metronidazole 500 mg 1 tablet(s) by mouth every eight (8) 
hours Disp #*20 Tablet Refills:*0 
6.  Senna 8.6 mg PO BID:PRN constipatoin  
7.  Acetaminophen-Caff-Butalbital ___ TAB PO Q8H:PRN Headache  
8.  Atorvastatin 40 mg PO QPM  
9.  Mirtazapine 30 mg PO QHS  
10.  Omeprazole 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
post-appendectomy inflammation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital with right lower quadrant 
abdominal pain.  You underwent cat scan imaging and you were 
reported to have a fluid collection near the site of your 
appendectomy. No abscess was identified but you were placed on a 
course of antibiotics.  Your vital signs have been stable and 
you are preparing for discharge home with the following 
instructions:  

You experience new chest pain, pressure, squeezing or tightness.

*New or worsening cough, shortness of breath, or wheeze.

*If you are vomiting and cannot keep down fluids or your 
medications.

*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.

*You see blood or dark/black material when you vomit or have a 
bowel movement.

*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.

*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.

*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications , unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed

 
Followup Instructions:
___